US09079866B2
5-{2′-[(5-Aminopyridin-2-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 6-(2-bromophenoxy)pyridin-3-amine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C21H16FN5O, 373.14; m/z found, 373.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.44 (s, 2H), 7.53 (m, 1H), 7.50-7.45 (m, 2H), 7.44-7.38 (m, 2H), 7.36-7.30 (m, 1H), 7.20 (t, J=7.4, 1H), 7.06-7.00 (m, 1H), 6.91 (d, J=8.0, 1H), 6.85 (s, 2H), 6.72 (d, J=8.6, 1H), 5.03 (s, 2H).

reactant | 6-(2-bromophenoxy)pyridin-3-amine | BrC1=C(OC2=CC=C(C=N2)N)C=CC=C1 | C11H9BrN2O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-{2′-[(5-Aminopyridin-2-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine | NC=1C=CC(=NC1)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C21H16FN5O
